US08557876B2
A 2 L reaction flask was charged with sodium hydride (NaH) (40 g) in dimethoxyethane (DME) (CH3OCH2CH2OCH3) (1.39 Kg) and a mixture of Cashmeran™ (520 g) and ethyl formate (185 g) at room temperature. The mixture was stirred for 8 hours to provide 1,1,2,3,3-pentamethyl-4-oxo-2,3,4,5,6,7-hexahydro-1H-indene-5-carbaldehyde. Dimethylformamide (DMF) (300 mL) and hydroxylamine hydrochloride (NH2OH*HC1) (174 g) were then added and the temperature was heated to and maintained at 130° C. for 8 hours. Water was then added and the organic layer was extracted by toluene and washed once with water. Toluene was distilled off using a Rotovap to provide crude product 5,6,7,8-tetrahydro-6,6,7,8,8-pentamethyl-4H-indeno[5,4-D]isoxazole (260 g), which was then recrystallized to afford a pure product with a melting point of 80.96° C.

reactant | sodium hydride | 40 g | [H-].[Na+]
reactant | Cashmeran | CC1C(C2=C(C1(C)C)C(=O)CCC2)(C)C | C14H22O
reactant | ethyl formate | 185 g | C(=O)OCC | C3H6O2
solvent | dimethoxyethane | 1.39 Kg | C(OC)COC | C4H10O2
product | 1,1,2,3,3-pentamethyl-4-oxo-2,3,4,5,6,7-hexahydro-1H-indene-5-carbaldehyde | CC1(C(C(C=2C(C(CCC12)C=O)=O)(C)C)C)C | C15H22O2
